US08378104B2
Step A: 7-chlorothieno[2,3-c]pyridine 6-oxide
To a solution of 7-chlorothieno[2,3-c]pyridine (5.00 g, 29.5 mmol) in DCM (200 mL) was added m-chloroperbenzoic acid (13.2 g, 59.0 mmol). The combined mixture was stirred at RT for 24 h. After that time, it was purified by ISCO chromatography (0 to 6% MeOH:DCM) to afford 3.18 g (58%) of the title compound as a light brown solid. 1H NMR (400 MHz, CDCl3): δ 8.31 (d, J=7.2 Hz, 1 H), 7.69 (d, J=5.2 Hz, 1 H), 7.57 (d, J=6.8 Hz, 1 H), 7.35 (d, J=5.2 Hz, 1 H); MS (ESI): 185.95, 187.96 [M+H]+; HPLC tR=0.88 min (TOF: polar—3 min).

reactant | 7-chlorothieno[2,3-c]pyridine | 29.5 mmol, 5.00 g | ClC=1N=CC=C2C1SC=C2 | C7H4ClNS
reactant | m-chloroperbenzoic acid | 59.0 mmol, 13.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 7-chlorothieno[2,3-c]pyridine 6-oxide | 3.18 g, 58% | ClC=1[N+](=CC=C2C1SC=C2)[O-] | C7H4ClNOS
